US04940737
A pentapeptide with a sequence of tyrosine-arginine-glycine-aspartate-serine (single letter code YRGDS) was obtained from Bachem, Inc. The peptide was 98% pure and had a molecular weight of 596.7. A solution of YRGDS was prepared in 0.05M sodium phosphate (pH 7.0), at a concentration of 5.0 mg/ml. To 0.3 ml of the peptide solution was added 30.0 μl of a 200.0 mg/ml solution of Prepolymer F (high temperature) in 2-propanol. These volumes provide a slight excess of peptide (2.51 micromoles) over prepolymer isocyanate (2.4 microequivalents). The mixture was kept at room temperature for 2.5 hours at which time it was analyzed by gel permeation HPLC. The separation system consisted of a Zorbax™ GF250 column (E.I. DuPont de Nemours Co.) and a mobile phase of 0.05M sodium phosphate, 0.3M NaCl (pH 7.0) at a flow rate of 0.5 ml/min. With these conditions, the void and internal volumes were 14.0 minutes (Blue Dextran) and 24.0 minutes (sodium azide), respectively. Peptide-prepolymer conjugate was identified as a broad peak eluting in the 14-20 minute time period. This was clearly separated from unreacted peptide, which eluted at 24 minutes. Free peptide was separated from the bound form using a disposable PD-10 column (Pharmacia).

reactant | tyrosine arginine glycine aspartate serine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O.NCC(=O)O.N[C@@H](CC(=O)[O-])C(=O)[O-].N[C@@H](CO)C(=O)O
reactant | isocyanate | 2.4 microequivalents | [N-]=C=O
solvent | sodium phosphate | 0.05M, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
product | YRGDS | C1=CC(=CC=C1C[C@@H](C(=O)N[C@@H](CCCN=C(N)N)C(=O)NCC(=O)N[C@@H](CC(=O)O)C(=O)N[C@@H](CO)C(=O)O)N)O | C24H36N8O10
